US07820683B2
(2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-(2-hydroxyethyl)propanamide
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.42 mmol) was reacted with ethanolamine (0.15 mL, 2.5 mmol) to give the title compound as a white solid (170 mg, 80%); NMR Spectrum 1.65 (d, 3H), 3.22 (q, 2H), 3.41-3.45 (m, 2H), 4.75 (t, 1H), 5.22 (q, 1H), 5.70 (s, 2H), 7.01-7.12 (m, 4H), 7.36 (dd, 2H), 7.72-7.76 (m, 3H), 8.17 (s, 1H), 8.47 (m, 1H), 8.53 (s, 1H), 8.56 (s, 1H), 10.73 (br s, 1H); Mass spectrum MH+ 501.

reactant | methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.42 mmol, 200 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)OC)C)C=CC1 | C26H22FN5O3
reactant | ethanolamine | 2.5 mmol, 0.15 mL | C(O)CN | C2H7NO
product | (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-(2-hydroxyethyl)propanamide | 170 mg, 80% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)NCCO)C)C=CC1 | C27H25FN6O3
